US07795283B2
Intermediate 78: Methyl [trans-4-(5-{[hydrazino(oxo)acetyl]amino}pyridin-2-yl)cyclohexyl]acetate
To a suspension of methyl ({6-[4-(2-methoxy-2-oxoethyl)cyclohexyl]pyridin-3-yl}amino)(oxo)acetate, prepared as above, (865 mg, 2.59 mmol) in absolute ethanol (50 mL) was added hydrazine monohydrate (0.15 mL, 3.09 mmol). A thick white suspension formed which was then allowed to stir at ambient temperature for ˜1.5 hrs, filtered, washed with ether (2×20 mL) and then dried to give the title compound (Intermediate 78), 610 mg (1.82 mmol, 70%) as a solid; 1H NMR δ 1.09-1.21 (m, 2H), 1.47-1.56 (m, 2H), 1.71-1.87 (m, 5H), 2.25 (d, 2H), 2.54-2.63 (m, 1H), 3.60 (s, 3H), 4.62 (s, 2H), 7.24 (d, 1H), 8.07 (d, 1H), 8.85 (s, 1H), 10.27 (s, 1H) (not all NH protons seen); MS m/e MH+ 335.

reactant | methyl ({6-[4-(2-methoxy-2-oxoethyl)cyclohexyl]pyridin-3-yl}amino)(oxo)acetate | COC(CC1CCC(CC1)C1=CC=C(C=N1)NC(C(=O)OC)=O)=O | C17H22N2O5
reactant | hydrazine monohydrate | 3.09 mmol, 0.15 mL | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Methyl [trans-4-(5-{[hydrazino(oxo)acetyl]amino}pyridin-2-yl)cyclohexyl]acetate | N(N)C(C(=O)NC=1C=CC(=NC1)[C@@H]1CC[C@H](CC1)CC(=O)OC)=O | C16H22N4O4
